* Z:\mnt\spice-netlists\LT8709_TA04_NegInverting.asc
XU1 N010 N011 N014 NC_01 N013 OUT N002 OUT N008 N005 N003 N007 0 IN N004 N006 N007 N009 MP_02 IN LT8709
V1 0 IN 12
L1 N001 0 4.7µ
R1 N002 OUT 8m
R2 OUT N010 60.4K
C1 OUT 0 400µ
C2 N011 IN 100p
C3 N012 IN 3.3n
R3 N011 N012 16.9K
C4 N014 IN 10n
C5 N013 IN 68n
R4 N009 IN 178K
R5 N006 IN 10K
R6 0 N006 4.99K
C6 N007 IN 2.2µ
C7 OUT N008 2.2µ
R7 N004 IN 1.5m
C8 0 IN 60µ
C9 0 IN 330µ
C10 OUT 0 330µ
M§Q1 N001 N005 N002 N002 Si7465DP
M§Q2 N001 N003 N004 N004 FDS5670
C11 OUT IN 2.2µ
Rload OUT 0 1.25
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LT8709 - Negative Input Synchronous Multi-Topology DC/DC Controller\nNegative Inverting Regulator with Output Current Monitor and Power Good Indication\nInput: -4.5V to -42V       Output: 5V @ 4A, Fsw = 200kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8709.sub
.backanno
.end
