* Z:\mnt\spice-netlists\LT3504_V23N1F1.asc
V1 N001 0 PWL(0 0 20u 16 1m 16 +20u 180 +.1m 180 +20u 16)
L1 N007 N008 10µ
C1 N005 N007 2.2µ
C2 N014 0 .001µ
R1 N019 0 18.2K
D1 N009 N006 MBRS140
L2 N006 OUT4 8.2µ
R2 OUT4 N010 53.6K
R3 N010 0 10.2K
D2 N020 N018 MBRS140
R4 OUT1 N021 12.7K
R5 N021 0 10.2K
D3 N016 N015 MBRS140
L3 N015 OUT2 4.2µ
R6 OUT2 N017 21.5K
R7 N017 0 10.2K
D4 N012 N011 MBRS140
L4 N011 OUT3 8.2µ
R8 OUT3 N013 31.6K
R9 N013 0 10.2K
D5 N005 N004 BAT54
R10 N004 N003 1K
C3 N003 0 0.01µ
R11 N003 N002 10
R12 N001 N003 100K
C4 N007 0 4.7µ
L5 N018 OUT1 4.2µ
C5 OUT1 N021 100p
C6 OUT2 N017 82p
C7 OUT3 N013 43p
C8 OUT4 N010 22p
C9 OUT4 0 10µ
C10 OUT3 0 10µ
C11 OUT2 0 22µ
C12 OUT1 0 22µ
XU2 N016 N015 N012 N011 N018 N020 N006 N009 N007 0 MP_01 N014 N014 N014 N014 N007 N019 MP_02 N010 N021 N013 N017 NC_03 N008 N005 LT3504
C13 N007 0 22µ
D6 0 N003 BZT52C36
D7 N007 N003 BZT52C6V8
Rload4 OUT4 0 5
Rload1 OUT1 0 1.8
Rload2 OUT2 0 2.5
Rload3 OUT3 0 3.3
M1 N001 N002 N007 N007 BSC320N20NS3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.2m startup
.model BZT52C36 D(Is=10n Rs=50 N=1 Cjo=19p VJ=1 M=.33 tt=50n BV=35 IBV=1e-8 NBV=3 Vpk=36 mfg=Diodes_Inc. type=Zener)
.model BZT52C6V8  D(Is=30p  Rs=3.5 N=1 Cjo=30p  tt=50n BV=6 IBV=1n NBV=2 Vpk=6.8 mfg=Diodes_Inc. type=Zener)
* Notes:\n  A smaller SS capacitor is being used to reduce simulation time. Typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LT3504 - Quad 40V/1A Step-Down Switching Regulator with 100% Duty Cycle Operation\nQuad Buck Regulator with 180V Surge Protection\nInput: 3.2V to 30V (180V Surge Protection)    Outputs: 5V, 3.3V, 2.5V & 1.8V @ 1A, Fsw = 1MHz
.lib LT3504.sub
.backanno
.end
