* Z:\mnt\spice-netlists\LT3758_V19N2P21_F8.asc
V1 IN 0 48
R1 IN N005 105K pwr=0.5
C1 P001 0 .01µ
R2 N009 0 36.5K
M§Q1 N002 N007 N010 N010 Si4848DY
R3 N010 0 40m
D1 0 N003 MBRS360
L1 OUT N003 1.5µ
L2 N002 IN 20µ
R4 OUT N004 162K
R5 N004 0 22.1K
R6 N011 N015 1K
C2 P002 0 .05µ
XU1 N008 0 P002 N004 N013 N011 LT4430
XU2 N012 N009 P001 N009 MP_01 N010 N007 N006 N005 IN 0 LT3758
R7 N005 0 8.66K
R8 N006 N012 6.81K
C3 OUT 0 100µ
C4 OUT N004 330p
C5 N008 0 1µ
XU3 N015 0 N012 0 PC817 Igain=1m
D2 N002 N001 ES1D
R9 IN N001 10K
C6 IN N001 4700p
C7 0 N006 4.7µ
C8 N014 N013 .01µ
R10 N014 N004 6.81K
C9 IN 0 1µ x2
C10 N012 0 100p
D3 N003 N008 1N4148
D4 OUT N008 1N4148
Rload OUT 0 2.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 3.5ms startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3758 - High Input Voltage, Boost, Flyback, SEPIC and Inverting Controller with LT4430 - Secondary-Side Optocoupler Driver\nAutomotive, Telecom & Industrial Isolated Flyback Converter\nInput: 18V to 72V   Output: 5V @ 2A, Fsw: 350kHz
.lib LT3758.sub
.lib LT4430.sub
.lib PC817.sub
.backanno
.end
