* Z:\mnt\spice-netlists\LT3796_V22N2_F1.asc
XU1 N003 N013 N015 0 N012 0 N010 N018 N009 N007 N020 N019 MP_01 N007 N014 N016 MP_02 N008 N006 N017 MP_03 MP_04 IN N005 IN N001 N004 N011 LT3796
V1 IN 0 12
R1 IN N001 50m
R2 IN N005 499K
R3 N005 0 97.6K
C1 N012 0 .1µ
C2 N018 N021 10n
R4 N019 0 31.6K
C3 N020 0 .05µ
C4 N017 0 4.7µ
M§Q1 N002 N006 N008 N008 BSC160N10NS3
R5 N008 0 15m
R6 N003 N013 .62
M§Q2 OUT N015 N013 N013 Si7113DN
D1 OUT 0 LXHL-BW02 N=25
R7 N003 N010 1Meg
R8 N010 0 13.7k
C5 N003 0 2.2µ x4
L1 N001 N002 22µ
D2 N002 N003 PDS5100
R9 N021 0 10K
R10 N016 N017 100K
R11 N014 N017 100K
R12 IN N009 1Meg
R13 N009 0 118K
Q3 N015 N013 N003 0 2N2907
D3 0 OUT MMSD4148
C6 N011 0 .01µ
R14 IN N004 2K
R15 N011 0 82.5K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
* LT3796 - 100V Constant-Current and Constant-Voltage Controller with Dual Current Sense\nBoost LED Driver with Output Short Circuit Protection & LED Current Monitor\nInput: 9V to 60V (100V Transient)      Output: 85V LED String @ 400mA
* Note:\n  Soft Start capacitor was minimized to speed up simulation time; C3 should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* Input Current\nReporting (Optional)
* LED Current\nReporting
.lib LT3796.sub
.backanno
.end
