* Z:\mnt\spice-netlists\LT3759_WideVin48VBoost.asc
XU1 N012 N013 N007 N009 MP_01 N006 N010 N008 N005 N003 IN IN 0 LT3759
C1 N011 0 22n
R1 N009 0 63.4K
C2 N007 0 .1µ
V1 IN 0 PWL(0 0 20u 2.5 10m 2.5 +.1m 1.6)
C3 N005 0 4.7µ
R2 N006 N003 100K
L1 N004 IN 8.2µ
M§Q1 N004 N008 N010 N010 Si4800DY
R3 N010 0 6m
D1 N004 N003 MBR0540
R4 N013 0 10K
C4 N003 0 10µ
C5 N001 N004 10µ
C6 OUT N003 10µ
C7 OUT 0 10µ
R5 N003 N002 1
R6 N012 N011 15K
D2 N001 OUT MBR0540
D3 N002 N001 MBR0540
R7 OUT N013 290K
C8 N012 0 120p
Rload OUT 0 480
C9 IN 0 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 12m startup
* LT3759 - Wide Input Voltage Range Boost/SEPIC/Inverting Controller\nWide Vin Boost Conveter that Works Down to 1.6V Input\nInput: 1.6V to 20V (2.5V startup)     Output: 48V@ >100mA, Fsw = 140kHz
* Note:\n  A smaller SS capacitor is being used to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LT3759.sub
.backanno
.end
