* Z:\mnt\spice-netlists\LT1615_boost.asc
V1 IN 0 2.5
XU1 N001 0 N002 IN IN LT1615
L1 IN N001 10µ
R1 OUT N002 2Meg
R2 N002 0 130K
C1 IN 0 4.7µ
C2 OUT 0 1µ
I1 OUT 0 12m load
D1 N001 OUT MBR0530L
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* LT1615 - µPower Step-up DC/DC Converters in ThinSOT\nInput: 2.5V to 4.2V       Output: 20V @ 12mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1615.sub
.backanno
.end
