* Z:\mnt\spice-netlists\LT3758_flyback.asc
M§Q1 N005 N007 N008 N008 Si4488DY
R1 N009 0 42.2K
R2 N012 0 15.8K
R3 OUT N012 34K
L1 IN N005 20µ
D1 N001 OUT MBRS340
R4 N011 N010 10K
C2 N010 0 .0068µ
V1 IN 0 48
C3 N003 0 4.7µ
C4 N006 0 .01µ
R5 N002 0 10K
R6 IN N002 105K
R7 N008 0 .04
XU1 N011 N012 N006 N009 MP_01 N008 N007 N003 N002 IN 0 LT3758
R8 IN N004 10K
C6 IN N004 .0047µ
D2 N005 N004 ES1D
L2 0 N001 1.5µ
Rload OUT 0 2.5
C1 OUT 0 100µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
K1 L1 L2 1
* LT3758 - Boost, Flyback, SEPIC and Inverting Controller\nInput: 48V       Output: 5V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT3758.sub
.backanno
.end
