* Z:\mnt\spice-netlists\LT1615_sepic.asc
V1 IN 0 2.5
XU1 N001 0 N003 IN IN LT1615
L1 IN N001 10µ
D1 N002 OUT MBR0520L
R1 OUT N003 1Meg
R2 N003 0 604K
C1 IN 0 4.7µ
C2 OUT N003 4.7p
C3 OUT 0 10µ
I1 OUT 0 50m load
C4 N002 N001 1µ
L2 0 N002 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LT1615 - µPower Step-up DC/DC Converters in ThinSOT\nInput: 2.5V to 4.2V      Output: 3.3V @ 50mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1615.sub
.backanno
.end
