* Z:\mnt\spice-netlists\LTC3203-1.asc
C1 N003 N001 2.2µ
C2 OUT 0 4.7µ
C3 IN 0 2.2µ
V1 IN 0 4
XU1 N001 OUT N004 IN IN N002 IN N003 0 N005 LTC3203-1
R1 N002 0 100K
R2 IN N002 402K
C4 N004 N005 2.2µ
C5 OUT 0 4.7µ
Rload OUT 0 10
.tran 1m startup
* LTC3203-1- 500mA Output Current Low Noise Dual Mode Step-up Charge Pump\nInput: 2.7V-5.5V    Output: 5V @ 500mA
* Notes:\n \n  1.  All Capacitors are Ceramic\n \n  2.  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n       It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n       Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n       Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n       Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3203-1.sub
.backanno
.end
