* Z:\mnt\spice-netlists\LTC3204-5.asc
C1 N002 N001 2.2µ
C2 OUT 0 4.7µ
C3 IN 0 2.2µ
V1 IN 0 4
XU1 0 IN OUT N001 N002 IN LTC3204-5
Rload OUT 0 33
.tran 1m startup
* LTC3204-5 - Low Noise Regulated Charge Pump in 2×2 DFN\nInput: 2.7V-5.5V   Output 5V @ 150mA
* Notes:\n \n  1.  All Capacitors are Ceramic\n \n  2.  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n       It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n       Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n       Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n       Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3204-5.sub
.backanno
.end
