* Z:\mnt\spice-netlists\LTC3727-1.asc
V1 IN 0 16
M§Q1 IN N004 N008 N008 HAT2168H
M§Q2 N008 N012 0 0 HAT2167H
C1 N007 N008 .1µ
L1 N005 N009 10µ
R1 N010 OUT2 0.02
C2 N024 0 .0001µ
C3 N021 N022 3300p
R2 N022 0 15K
C4 N014 N016 1000p
R3 N018 0 20K
C5 N021 0 100p
R4 OUT2 N018 280K
C6 OUT2 0 4.7µ
D1 N002 N007 CMDSH2-3
M§Q3 IN N003 N005 N005 HAT2168H
M§Q4 N005 N011 0 0 HAT2167H
C7 N006 N005 .1µ
L2 N008 N010 12µ
R5 N009 OUT1 0.02
C8 N023 0 .0001µ
C9 N019 N020 1000p
R6 N019 0 30K
C10 N013 N015 1000p
R7 N017 0 20K
C11 N020 0 100p
R8 OUT1 N017 105K
C12 OUT1 0 4.7µ
D2 N002 N006 CMDSH2-3
R9 IN N001 10
R10 N010 N014 10
R11 OUT2 N016 10
R12 N013 N009 10
R13 N015 OUT1 10
C13 IN 0 0.1µ x2
XU1 N023 N013 N015 N017 0 N027 0 N020 0 N025 N021 N018 N016 N014 N024 N004 N008 N007 N012 0 N002 NC_01 N011 N001 N006 N005 N003 N026 LTC3727
C15 IN 0 22µ
C16 N001 0 0.1µ
C17 N002 0 4.7µ
D3 0 N005 MBRS130L
D4 0 N008 MBRS130L
C18 OUT1 0 150µ
C19 OUT2 0 68µ
R14 OUT2 0 5
R15 OUT1 0 1.25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* CDRH124-100MC
* CDRH124-120MC
* LTC3727-1 -High Efficiency, 2-Phase Synchronous Step-Down Switching Regulators\nInput: 12.5-25V   Outputs: 5V@4A and 12V@3A, Component value selected similar to DC457B
* Notes:\n  Run/SS1 and Run/SS2 caps are reduced significantly to reduce simulation time.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3727.sub
.backanno
.end
