* Z:\mnt\spice-netlists\LTC3736-1.asc
M§Q1b N005 N007 0 0 Si7540DP_N
C1 N001 0 1µ
L1 N005 OUT1 1.5µ
R1 N009 0 59K
R2 N009 OUT1 187K
C2 OUT1 0 47µ
C3 N012 N011 470p
C4 N012 0 22p
R3 N011 0 15K
V1 IN 0 3.3
M§Q2b N006 N008 0 0 Si7540DP_N
R4 N010 0 59K
R5 N010 OUT2 118K
C5 OUT2 0 47µ
C6 N013 N014 470p
C7 N013 0 22p
R6 N014 0 15K
L2 N006 OUT2 1.5µ
M§Q2a N006 N004 IN IN Si7540DP_P
R7 IN N001 10
R8 IN N002 100K
M§Q1a N005 N003 IN IN Si7540DP_P
R9 N016 OUT1 11.8K
R10 0 N016 5.9K
C8 IN 0 10µ
C9 IN 0 10µ
Rload2 OUT2 0 .6
Rload1 OUT1 0 .83
XU1 N005 N001 N009 N012 N001 N015 0 N001 N016 N010 N013 N002 N006 IN 0 N008 NC_01 N004 0 N003 0 N007 MP_02 IN LTC3736-1
C10 N015 0 2200p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LTC3736-1  -  2-Phase Dual Output Synchronous DC/DC Converter with Spread Spectrum and Output Tracking \nInput 3.3V     Outputs: 2.5V@3A and 1.8V@3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3736-1.sub
.backanno
.end
